US06503935B1
5-amino-8-chloro-3,4-dihydro-1(2H)-naphthalenone
A solution of 5-amino-1-tetralone (Itoh, K. Chem. Pharm. Bull. (1984), 32, 130-151) (0.50 g, 3.1 mmol) in dimethylformamide (15 mL) was treated with N-chlorosuccinimide (0.49 g, 3.7 mmol), stirred for 60 hours, treated with water and extracted with ether (4×30 mL). The combined ether extracts were washed with brine, dried (Na2SO4) and concentrated. Purification of the residue on silica gel with ethyl acetate:hexanes 1:1 provided the desired product.

reactant | 5-amino-1-tetralone | 3.1 mmol, 0.50 g | NC1=C2CCCC(C2=CC=C1)=O | C10H11NO
reactant | N-chlorosuccinimide | 3.7 mmol, 0.49 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-amino-8-chloro-3,4-dihydro-1(2H)-naphthalenone | NC1=C2CCCC(C2=C(C=C1)Cl)=O | C10H10ClNO
